US08207370B2
Production of ethyl 2-acetylamino-3-oxooctadecanoate
A methylene chloride solution (5.0 ml) of N-acetylglycine ethyl ester (72.5 mg, 0.50 mmol) and N-methylimidazole (50.4 mg, 0.61 mmol) was cooled to −45° C., and a methylene chloride solution (0.5 ml) of palmitoyl chloride (142.6 mg, 0.50 mmol) was added thereto in nitrogen atmosphere. After the mixture was stirred for 20 minutes at the same temperature, a methylene chloride solution (0.5 ml) of titanium tetrachloride (340.4 mg, 1.78 mmol) and a methylene chloride solution (0.5 ml) of tributylamine (372.4 mg, 2.01 mmol) were added thereto. The resulting mixture was stirred for 2 hours at −45° C. Water was added thereto, and the mixture was heated to room temperature, and the organic layer was separated. Further, the water layer was extracted twice with methylene chloride, and the organic layers were combined and dried with magnesium sulfate. After the solvent was removed in reduced pressure, the obtained crude product was purified by silica gel chromatography (Kieselgel 60 manufactured by Merck, hexane:ethyl acetate=3:2) to obtain the title compound (148.8 mg, yield: 88%).

reactant | N-acetylglycine ethyl ester | 0.50 mmol, 72.5 mg | C(C)OC(CNC(C)=O)=O | C6H11NO3
reactant | N-methylimidazole | 0.61 mmol, 50.4 mg | CN1C=NC=C1 | C4H6N2
reactant | palmitoyl chloride | 0.50 mmol, 142.6 mg | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | tributylamine | 2.01 mmol, 372.4 mg | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | titanium tetrachloride | 1.78 mmol, 340.4 mg | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-acetylamino-3-oxooctadecanoate | 148.8 mg, yield: 88% | C(C)(=O)NC(C(=O)OCC)C(CCCCCCCCCCCCCCC)=O | C22H41NO4
